US07763608B2
To a solution of (1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methanol (0.41 g, 1.18 mmol) in anhydrous dioxane (10 mL), diphenylphosphoryl azide (0.80 mL, 3.71 mmol) and DBU (0.600 mL, 4.02 mmol) were added. The mixture in a sealed tube was heated at 110° C. for 3 h. After being cooled down, H2O and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with EtOAc in hexane (0-20% EtOAc) to give 4-(azidomethyl)-1-(4-iodophenyl)-2-(methylthio)-1H-imidazole (0.39 g).

reactant | (1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methanol | 1.18 mmol, 0.41 g | IC1=CC=C(C=C1)N1C(=NC(=C1)CO)SC | C11H11IN2OS
reactant | diphenylphosphoryl azide | 3.71 mmol, 0.80 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 4.02 mmol, 0.600 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | H2O | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(azidomethyl)-1-(4-iodophenyl)-2-(methylthio)-1H-imidazole | 0.39 g | N(=[N+]=[N-])CC=1N=C(N(C1)C1=CC=C(C=C1)I)SC | C11H10IN5S
